US08541596B2
N,N-Bis-((benzo[c][1,2,5]thiadiazol-5-yl)methyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), benzo[c][1,2,5]thiadiazol-5-yl-methylbromide (504 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.128 mg (29.8%); MS m/z: 430.4 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 5.01 (s, 4H); 6.78 (br s, 1H); 6.82-6.84 (m, 1H); 7.39-7.41 (m, 1H); 7.71-7.73 (m, 2H); 7.88 (s, 1H); 7.90 (s, 2H); 8.06-8.08 (m, 2H); 11.85 (br s, 1H); HPLC (METHOD [A]): rt 14.11 min (98.9%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | benzo[c][1,2,5]thiadiazol-5-yl-methylbromide | 2.2 mmol, 504 mg, 2.2 eq. | N=1SN=C2C1C=CC(=C2)CBr | C7H5BrN2S
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis-((benzo[c][1,2,5]thiadiazol-5-yl)methyl)-1H-benzo[d]imidazol-5-amine | N=1SN=C2C1C=CC(=C2)CN(C2=CC1=C(NC=N1)C=C2)CC2=CC=1C(=NSN1)C=C2 | C21H15N7S2
